US07323466B2
c) (R)-2-(3-Formyl-benzyl)-morpholine-4-carboxylic acid tert-butyl ester
The solution of 1.3 g (3.6 mmol) (R)-2-(3-bromo-benzyl)-morpholine-4-carboxylic acid tert-butyl ester in 80 mL diethyl ether was cooled down to −100° C. and treated dropwise with 2.6 mL (3.9 mmol; 1.5M solution in n-pentane) tert-butyllithium. After 15 min. 0.31 mL (4.0 mmol) N,N-dimethylformamide were added and the reaction stirred for another 1.5 h. The solution was poured on 10% aqueous ammonium chloride solution and extracted with ethyl acetate. The organic layer was washed with brine, dried over magnesium sulfate, filtered and evaporated. The residue was chromatographed on silica gel with n-hexane:ethyl acetate (2:1 v/v) as eluant to give the desired compound as colorless oil (43%).

reactant | (R)-2-(3-bromo-benzyl)-morpholine-4-carboxylic acid tert-butyl ester | 3.6 mmol, 1.3 g | C(C)(C)(C)OC(=O)N1C[C@H](OCC1)CC1=CC(=CC=C1)Br | C16H22BrNO3
reactant | tert-butyllithium | 3.9 mmol, 1.5M, 2.6 mL | C(C)(C)(C)[Li]
reactant | N,N-dimethylformamide | 4.0 mmol, 0.31 mL | CN(C=O)C | C3H7NO
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | diethyl ether | 80 mL | C(C)OCC | C4H10O
product | (R)-2-(3-Formyl-benzyl)-morpholine-4-carboxylic acid tert-butyl ester | 43% | C(C)(C)(C)OC(=O)N1C[C@H](OCC1)CC1=CC(=CC=C1)C=O | C17H23NO4
